*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXF6R3ARA391MH70G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXF6R3ARA391MH70G_20deg-C 1 2

C1 4 2 2.84e-04
C2 5 2 1.07e-04
C3 6 2 5.71e-06
R1 3 4 8.42e-03
R2 4 5 1.77e-02
R3 5 6 4.08e+00
L1 1 3 3.40e-09

.ENDS
*$
